US07259159B2
1b) 4-[6-((2S)-2-Benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethylamino)-purin-9-yl]-butyric acid ethyl ester
1 g (3.72 mmol) of 4-(6-chloro-purin-9-yl)-butyric acid ethyl ester was dissolved in dimethylformamide (3 ml) and 2.6 ml (14.9 mmol) of N,N-diisopropylethylamine was added. 1.09 g (3.72 mmol) of (2S)-3-amino-2-benzyloxycarbonylamino-propionic acid tert-butyl ester and dimethylformamide (2 ml) were added. The reaction was stirred at 80° C. for 2 days. The solvent was removed in vacuo, the residue was dissolved in dichloromethane and the solution was washed three times with 10% aqueous citric acid solution and three times with water. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. Residual amounts of 4-(6-chloro-purin-9-yl)-butyric acid ethyl ester were removed as follows: the residue was dissolved in tetrahydrofuran and 2 g of a macroporous aminomethyl polystyrene resin was added. The suspension was heated at 60° C. for 5 hours, then stirred gently at room temperature for 16 hours. The resin was filtered off, washed with tetrahydrofuran, and the combined organic phase was dried in vacuo. Yield: 908 mg.

reactant | 4-(6-chloro-purin-9-yl)-butyric acid ethyl ester | 3.72 mmol, 1 g | C(C)OC(CCCN1C2=NC=NC(=C2N=C1)Cl)=O | C11H13ClN4O2
reactant | N,N-diisopropylethylamine | 14.9 mmol, 2.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S)-3-amino-2-benzyloxycarbonylamino-propionic acid tert-butyl ester | 3.72 mmol, 1.09 g | C(C)(C)(C)OC([C@H](CN)NC(=O)OCC1=CC=CC=C1)=O | C15H22N2O4
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-[6-((2S)-2-Benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethylamino)-purin-9-yl]-butyric acid ethyl ester | C(C)OC(CCCN1C2=NC=NC(=C2N=C1)NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C26H34N6O6
